US08133995B2
Preparation of N-{4-[4-amino-7-bromo-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea
To a suspension of Intermediate AA (N-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea (750 mg, 1.58 mmol)) in acetonitrile (7 ml) was added N-bromosuccinimide (365 mg, 2.0 mmol) and the mixture was heated at 60 C in a sealed vial for 1 h. After cooling to 0° C., the reaction was filtered and washed with cold CH3CN and ethyl ether (3×) to give the crude product as a solid, which was purified via flash column chromatography (95:5 v/v CH2Cl2-MeOH) to afford additional 50 mg of the title compound. 1H-NMR (DMSO-d6) δ 9.34 (s, 1H), 8.95 (d, J=3 Hz, 1H), 8.6 (m, 1H), 7.98 (s, 1H), 7.60 (d, J=3 Hz, 1H), 7.57 to 7.58 (m, 1H), 7.49 (m, 1H), 7.38 to 7.34 (m, 2H), 4.21 (s, 2H), 3.16 (s, 3H); MS [M+H]+=553; LCMS RT=3.24 min.

reactant | N-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea | 1.58 mmol, 750 mg | NC1=NC=NN2C1=C(C(=C2)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C22H18F4N6O2
reactant | N-bromosuccinimide | 2.0 mmol, 365 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | N-{4-[4-amino-7-bromo-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea | 50 mg | NC1=NC=NN2C1=C(C(=C2Br)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C22H17BrF4N6O2
